US08685991B2
Part A. Preparation of 5-bromo-2-(2,4-dimethoxybenzyl)isoindolin-1-one
To a solution of methyl 4-bromo-2-(bromomethyl)benzoate (1.0 g, 3.25 mmol) and (2,4-dimethoxyphenyl)methanamine (0.65 g, 3.90 mmol) in THF (16 mL) was added triethylamine (0.91 mL, 6.5 mmol), and the resulting mixture was stirred at room temperature for 16 h. The resulting solid was filtered off, and the filtrate was concentrated in vacuo. The crude product was purified by column chromatography on silica gel using 1:4 EtOAc:hexanes as the eluent to give the title compound as a colorless solid (0.52 g, 44%).

reactant | methyl 4-bromo-2-(bromomethyl)benzoate | 3.25 mmol, 1.0 g | BrC1=CC(=C(C(=O)OC)C=C1)CBr | C9H8Br2O2
reactant | (2,4-dimethoxyphenyl)methanamine | 3.90 mmol, 0.65 g | COC1=C(C=CC(=C1)OC)CN | C9H13NO2
reactant | triethylamine | 6.5 mmol, 0.91 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | 5-bromo-2-(2,4-dimethoxybenzyl)isoindolin-1-one | 0.52 g, 44% | BrC=1C=C2CN(C(C2=CC1)=O)CC1=C(C=C(C=C1)OC)OC | C17H16BrNO3
